US06518423B1
6-(5-Nitropyridin-2-yl)-2,2-dimethylhexanamide
Ethyl 6-(5-nitropyridin-2-yl)-2,2-dimethylhexanoate was treated in the same manner as the one of Example 18 and 661 mg of 6-(5-nitropyridin-2-yl)-2,2-dimethylhexanoic acid thus obtained was dissolved in 15 ml of tetrahydrofuran. After adding 695 mg of carbonyldiimidazole, the resulting mixture was heated under reflux for 2 hours. Then the reaction mixture was cooled to room temperature and 25 ml of saturated aqueous ammonia was added thereto followed by stirring over day and night. After the completion of the reaction, the reaction mixture was poured into a saturated aqueous solution of sodium chloride and repeatedly extracted with ethyl acetate. The extracts were dried over anhydrous sodium sulfate and filtered. The filtrate was distilled under reduced pressure and the residue was purified by silica gel column chromatography (eluted with toluene/acetone) to thereby give 453 mg of the title compound as white crystals.

reactant | Ethyl 6-(5-nitropyridin-2-yl)-2,2-dimethylhexanoate | [N+](=O)([O-])C=1C=CC(=NC1)CCCCC(C(=O)OCC)(C)C | C15H22N2O4
reactant | 6-(5-nitropyridin-2-yl)-2,2-dimethylhexanoic acid | 661 mg | [N+](=O)([O-])C=1C=CC(=NC1)CCCCC(C(=O)O)(C)C | C13H18N2O4
reactant | carbonyldiimidazole | 695 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | 25 ml | N | H3N
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 6-(5-Nitropyridin-2-yl)-2,2-dimethylhexanamide | 453 mg | [N+](=O)([O-])C=1C=CC(=NC1)CCCCC(C(=O)N)(C)C | C13H19N3O3
